US07834045B2
At room temperature, 56.0 mg (2.3 mmol) of sodium hydride are added to a solution of 300.0 mg (0.78 mmol) of 5-fluoro-1-methyl-3-(trifluoromethyl)-N-[2-(1,3,3-trimethylbutyl)phenyl]-1H-pyrazole-4-carboxamide in 10.0 ml of tetrahydrofuran. The reaction mixture is stirred at room temperature for 15 min, and 366.6 mg (4.7 mmol) of acetyl chloride and 2.2 g (21.2 mmol) of acetic anhydride are added. After 16 h of heating under reflux, the reaction mixture is added to 100 ml of methanol and 3 ml of triethylamine, and the mixture is filtered and concentrated under reduced pressure. Recrystallization from cyclohexane gives 182 mg (54.7% of theory) of N-acetyl-5-fluoro-1-methyl-3-(trifluoromethyl)-N-[2-(1,3,3-trimethylbutyl)phenyl]-1H-pyrazole-4-carboxamide of log P (pH 2.3)=4.63.

reactant | sodium hydride | 2.3 mmol, 56.0 mg | [H-].[Na+]
reactant | 5-fluoro-1-methyl-3-(trifluoromethyl)-N-[2-(1,3,3-trimethylbutyl)phenyl]-1H-pyrazole-4-carboxamide | 0.78 mmol, 300.0 mg | FC1=C(C(=NN1C)C(F)(F)F)C(=O)NC1=C(C=CC=C1)C(CC(C)(C)C)C | C19H23F4N3O
reactant | acetyl chloride | 4.7 mmol, 366.6 mg | C(C)(=O)Cl | C2H3ClO
reactant | acetic anhydride | 21.2 mmol, 2.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | N-acetyl-5-fluoro-1-methyl-3-(trifluoromethyl)-N-[2-(1,3,3-trimethylbutyl)phenyl]-1H-pyrazole-4-carboxamide | 182 mg, 54.7% | C(C)(=O)N(C(=O)C=1C(=NN(C1F)C)C(F)(F)F)C1=C(C=CC=C1)C(CC(C)(C)C)C | C21H25F4N3O2
